US04960758
VIII (a) Preparation of 2-bromophenyl 2-methoxyphenyl methanone
Following the Procedure described in Preparation VIa and starting from 9.4 g (0.050 mol) of 2-bromoanisole, 1.7 g (0.069 mol) of magnesium and 11 g (0.050 mol) of 2-bromobenzoyl chloride, 9.6 g of the expected product (yield: 66%) are obtained after crystallization from ether.

reactant | 2-bromoanisole | 0.050 mol, 9.4 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | magnesium | 0.069 mol, 1.7 g | [Mg] | Mg
reactant | 2-bromobenzoyl chloride | 0.050 mol, 11 g | BrC1=C(C(=O)Cl)C=CC=C1 | C7H4BrClO
product | 2-bromophenyl 2-methoxyphenyl methanone | 9.6 g, yield: 66% | BrC1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)OC | C14H11BrO2
